US06573274B1
Methyl 3-(4-(N-(tert-butoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (234 mg) was dissolved in dichloromethane (3 ml) and 4N hydrochloric acid (ethyl acetate solution) (2 ml) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure and ethyl acetate was added. The precipitated crystals were collected by filtration and concentrated under reduced pressure with heating to give methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride (215 mg) as pale-red crystals.

reactant | Methyl 3-(4-(N-(tert-butoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 234 mg | C(C)(C)(C)OC(=O)N(C)C1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C22H25ClN4O4
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride | 215 mg | Cl.Cl.ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)NC | InChI=1S/C17H17ClN4O2.2ClH/c1-10-20-14-6-7-15(17(23)24-3)21-16(14)22(10)9-11-4-5-12(19-2)8-13(11)18;;/h4-8,19H,9H2,1-3H3;2*1H
